US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-N′-[4-(dimethylamino)phenyl]urea was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 4-dimethylamino phenyl isocyanate in a similar manner as described above to give a tan solid (40% yield). 1H-NMR (DMSO-d6): δ 10.99 (s, 1H), 7.98 (s, 1H), 7.60 (d, 1H), 7.33-7.23 (m, 3H), 7.17 (dd, 1H), 6.71 (d, 2H), 6.44 (d, 1H), 5.00 (m, 1H), 2.84 (s, 6H), 2.67 (m, 2H), 2.04 (m, 1H), 1.94-1.74 (m, 3H); MS m/z 427 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 4-dimethylamino phenyl isocyanate | CN(C1=CC=C(C=C1)N=C=O)C | C9H10N2O
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-N′-[4-(dimethylamino)phenyl]urea | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(=O)NC1=CC=C(C=C1)N(C)C | C21H23BrN4O
